US07417062B2
Step 1: [3-(2-Methyl-piperidin-1-yl)-propyl]-(5-phenyl-thiazol-2ylmethyl)-amine.
Experimental condition analogous to Example 18, from 5-phenyl-thiazole-2-carbaldehyde 0.16 g (1.05 mmol), 3-(2-methyl-piperidin-1-yl)-propylamine 0.2 g (1.05 mmol), in 5 mL of dry dichloromethane was added 2 g of molecular sieve. The reaction was stirred overnight at room temperature. The molecular sieve was filtered and dichloromethane was concentrated under vaccum. To the mixture was added 15 mL of dry methanol and sodium borohydride 0.04 g (1.155 mmol) was added at 0° C. after 30 minutes reaction goes to completion. The reaction was quenched with 2 mL acetone, methanol was concentrated under vacuum, and was diluted with chloroform, organic layer was washed with 2 times 20 mL water, followed with brine. The organic layer was dried over magnesium sulfate and concentrated under vaccum. Yield 0.3 g of compound.

reactant | 5-phenyl-thiazole-2-carbaldehyde | 1.05 mmol, 0.16 g | C1(=CC=CC=C1)C1=CN=C(S1)C=O | C10H7NOS
reactant | 3-(2-methyl-piperidin-1-yl)-propylamine | 1.05 mmol, 0.2 g | CC1N(CCCC1)CCCN | C9H20N2
reactant | methanol | 15 mL | CO | CH4O
reactant | sodium borohydride | 1.155 mmol, 0.04 g | [BH4-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | [3-(2-Methyl-piperidin-1-yl)-propyl]-(5-phenyl-thiazol-2ylmethyl)-amine | CC1N(CCCC1)CCCNCC=1SC(=CN1)C1=CC=CC=C1 | C19H27N3S
